US08466290B2
6-cyano-N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-phenyl-4-quinolinecarboxamide (compound Ia-95)
HOBt (0.0351 g, 0.260 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (EDC) (0.0460 g, 0.240 mmol) were added to a dimethylformamide (5.0 mL) solution of 6-cyano-2-phenyl-4-quinolinecarboxylic acid (0.0548 g, 0.200 mmol) described in Reference Example 22 and triethylamine (0.0223 g, 0.220 mmol), and the mixture was stirred at room temperature for 30 minutes. Commercially available 2-amino-5-(2-furyl)-1,3,4-oxadiazole (0.0332 g, 0.220 mmol) was added thereto, and the mixture was stirred at room temperature. The reaction solution was subjected to extraction with dichloromethane, washed with water and saturated saline, and dried over anhydrous sodium sulfate, and then, the solvent was distilled off. The obtained residue was fractionated by silica gel column chromatography, and the solvent was distilled off to obtain the title compound (0.001 g, 0.0024 mmol) as an amorphous substance.

reactant | HOBt | 0.260 mmol, 0.0351 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.240 mmol, 0.0460 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 6-cyano-2-phenyl-4-quinolinecarboxylic acid | 0.200 mmol, 0.0548 g | C(#N)C=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)C(=O)O | C17H10N2O2
reactant | triethylamine | 0.220 mmol, 0.0223 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-(2-furyl)-1,3,4-oxadiazole | 0.220 mmol, 0.0332 g | NC=1OC(=NN1)C=1OC=CC1 | C6H5N3O2
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 6-cyano-N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-phenyl-4-quinolinecarboxamide | 0.0024 mmol, 0.001 g | C(#N)C=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)C(=O)NC=1OC(=NN1)C=1OC=CC1 | C23H13N5O3
